US09354234B2
To a solution in which gallic acid (5.0 g, 29.39 mmol) was dissolved in methanol (25 mL), concentrated sulfuric acid (0.5 mL) and trimethyl orthoformate (3.21 mL, 88.17 mmol) were added consecutively at room temperature. The reaction mixture was heated under reflux for 10 hours, cooled to room temperature, and methanol was removed by vacuum distillation. To the residue obtained as above, distilled water (10 mL) was added, and the precipitated solid was filtered to give methyl gallate (5.15 g, 95%). 1H NMR (500 MHz, DMSO-D6) δ 9.29 (s, 2H), 8.96 (s, 1H), 6.92 (s, 2H), 3.73 (s, 3H).

reactant | gallic acid | 29.39 mmol, 5.0 g | C(C1=CC(O)=C(O)C(O)=C1)(=O)O | C7H6O5
reactant | sulfuric acid | 0.5 mL | S(O)(O)(=O)=O | H2O4S
reactant | trimethyl orthoformate | 88.17 mmol, 3.21 mL | C(OC)(OC)OC | C4H10O3
solvent | methanol | 25 mL | CO | CH4O
product | methyl gallate | 5.15 g, 95% | C(C1=CC(O)=C(O)C(O)=C1)(=O)OC | C8H8O5
